US07268230B2
tert-Butyl 4-[(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazolin-7-yloxy)methyl]piperidine-1-carboxylate [285 mg (containing 13.5% triphenylphospine oxide), 0.49 mmol] was dissolved in 4M hydrogen chloride in dioxane (5 ml) and stirred at ambient temperature for 3 hours. The solvent was removed under reduced pressure and the solid suspended in methylene chloride and filtered off. The solid was dissolved in methanol and absorbed onto an Isolute SCX column which was washed through with methanol and then the product eluted with 7N ammonia in methanol. Concentration of the fractions gave 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline (185 mg, 86%).

reactant | tert-Butyl 4-[(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazolin-7-yloxy)methyl]piperidine-1-carboxylate | 0.49 mmol, 285 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C(=O)OC(C)(C)C)C | C29H33FN4O5
solvent | hydrogen chloride | 4M | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | 185 mg, 86% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCNCC1)C | C24H25FN4O3
